US07820683B2
Concentrated HCl (2.5 mL) was added to a solution of 5-nitro-1-(1,3-oxazol-2-ylmethyl)-1H-indazole (456 mg, 1.87 mmol) and SnCl2 (1.42 g, 7.47 mmol) in ethanol (10 mL) and the mixture was heated at 50° C. for 4 hours. The mixture was cooled down, neutralized to pH 8 with 2N sodium hydroxide and extracted with ethyl acetate. The residue is purified on silica gel (EtOAc) to give 1-(1,3-oxazol-2-ylmethyl)-1H-indazol-5-amine (182 mg, 46%); NMR spectrum (CDCl3) 5.55 (s, 2H), 6.79 (d, 1H), 6.86 (s, 1H), 7.00 (s, 1H), 7.24 (d, 1H), 7.50 (s, 1H), 7.77 (s, 1H); Mass spectrum MH+ 215.

reactant | HCl | 2.5 mL | Cl | ClH
reactant | 5-nitro-1-(1,3-oxazol-2-ylmethyl)-1H-indazole | 1.87 mmol, 456 mg | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CC=1OC=CN1 | C11H8N4O3
reactant | SnCl2 | 7.47 mmol, 1.42 g | Cl[Sn]Cl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(1,3-oxazol-2-ylmethyl)-1H-indazol-5-amine | 182 mg, 46% | O1C(=NC=C1)CN1N=CC2=CC(=CC=C12)N | C11H10N4O
